US05681954
Ethyl 5,6-Dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole-3-carboxylate
In 5000 ml of dimethyl sulfoxide was suspended 250.2 g of ethyl 5,6-dimethoxyindazole-3-carboxylate, and 40.2 g of lithium methoxide was added to the suspension, followed by stirring at room temperature for 1 hour. A solution of 447.8 g of 4-chloromethyl-1-tritylimidazole in 2000 ml of dimethyl sulfoxide was added dropwise thereto at room temperature over 10 minutes. After stirring at room temperature for 2 hours, 4.2 g of lithium methoxide and 44.8 g of 4-chloromethyl-1-tritylimidazole were further added thereto, followed by stirring at room temperature for 1 hour. The reaction mixture was poured into 30000 ml of ice-water while stirring. A precipitated crystal was collected, washed with three 2000 ml portions of water, and dried. The solid was dissolved in 10000 ml of chloroform, and the solution was dried over sodium sulfate, filtered, and the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform:ethanol=50:1) and recrystallized from chloroform/isopropyl alcohol to yield 222.0 g of the title compound as a colorless prism crystal.

reactant | ethyl 5,6-dimethoxyindazole-3-carboxylate | 250.2 g | COC=1C=C2C(=NNC2=CC1OC)C(=O)OCC | C12H14N2O4
reactant | lithium methoxide | 40.2 g | C[O-].[Li+]
reactant | 4-chloromethyl-1-tritylimidazole | 447.8 g | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
reactant | lithium methoxide | 4.2 g | C[O-].[Li+]
reactant | 4-chloromethyl-1-tritylimidazole | 44.8 g | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
solvent | dimethyl sulfoxide | 5000 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2000 ml | CS(=O)C | C2H6OS
product | Ethyl 5,6-Dimethoxy-1-(1-trityl-4-imidazolyl)methyl-1H-indazole-3-carboxylate | 222.0 g | COC=1C=C2C(=NN(C2=CC1OC)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC | C35H32N4O4
